US07037908B2
3-(2-Dimethylsulfamoyl-phenyl)-5-ethoxycarbonylmethyl-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester.
To a solution of 2-cyano-N,N-dimethyl-benzenesulfonamide (4.68 g, 22.3 mmol) in ethanol/water (1:1, 150 mL) was added N-methylhydroxylamine hydrochloride (3.72 g, 44.6 mmol) followed by sodium carbonate (2.36 g, 22.3 mmol). The resulting mixture was stirred at 90° C. for 8 h then concentrated. The residue was triturated with MeOH/CHCl3 (10%) and filtered. The solution was concentrated leaving an orange residue that was dissolved in ethanol (50 mL). Added to this solution was diethyl acetylene-dicarboxylate (3.6 mL, 22.3 mmol) and the resulting mixture stirred at room temp for 30 min. The mixture was concentrated and purified by flash chromatography (25% to 50% EtOAc/Hexanes) to give the title product as a yellow oil (5.57 g, 58% over two steps). 1HNMR (300 MHz, CDCl3) δ: 7.93–7.87 (1H, m), 7.66–7.60 (2H, m), 7.57–7.51 (1H, m), 4.39–4.22 (2H,m), 4.16 (q, 2H, J=7.20 Hz), 3.40 (1H, d, J=16.47 Hz), 3.15 (1H, d, J=16.47 Hz), 3.00 (3H, s), 2.82 (6H, s), 1.24 (6H, td, J=6.95, 1.46 Hz). LCMS calcd for C18H26N3O7S (M+H): 428.14; found: 428.10.

reactant | 2-cyano-N,N-dimethyl-benzenesulfonamide | 22.3 mmol, 4.68 g | C(#N)C1=C(C=CC=C1)S(=O)(=O)N(C)C | C9H10N2O2S
reactant | N-methylhydroxylamine hydrochloride | 44.6 mmol, 3.72 g | Cl.CNO
reactant | sodium carbonate | 22.3 mmol, 2.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl acetylene-dicarboxylate | 22.3 mmol, 3.6 mL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol water | 150 mL | C(C)O.O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(2-Dimethylsulfamoyl-phenyl)-5-ethoxycarbonylmethyl-2-methyl-2,5-dihydro-[1,2,4]oxadiazole-5-carboxylic acid ethyl ester | 5.57 g, 58% | C(C)OC(=O)C1(N=C(N(O1)C)C1=C(C=CC=C1)S(N(C)C)(=O)=O)CC(=O)OCC | C18H25N3O7S
